US08049013B2
2-(4-Chloro-phenyl)-5-[4-(1-cyclopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Mix molecular sieves (60 mg, type 3A), 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (1.00 g, 2.26 mmoles), [(1-ethoxycyclopropyl)oxy]trimethylsilane (685.2 μL, 3.39 mmoles), and acetic acid (648 μL, 11.31 mmoles) in dry methanol (11.4 mL). Reflux the mixture for 3 h. Cool the mixture to room temperature, add sodium cyanoborohydride (300 mg, 4.53 mmol) and slowly warm to 40° C. for 1 h. Cool the mixture and add 1 N NaOH solution. Extract the aqueous layer with CHCl3 (3×25 mL). Purify on HPLC, 4.6×150 mm Kromasil® silica, Eluent: 40% THF/heptane 0.1% N,N′-dimethylethylamine, 1 mL/min. Re-dissolve the material in CHCl3 and add 1 N HCl/Et2O solution (750 μL). Concentrate the solvent in vacuo to give 375 mg (34%) of the title compound. ES/MS m/z (35Cl) 482.2 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 2.26 mmoles, 1.00 g | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H20ClN3O3S
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 3.39 mmoles, 685.2 μL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 11.31 mmoles, 648 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.53 mmol, 300 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | methanol | 11.4 mL | CO | CH4O
product | 2-(4-Chloro-phenyl)-5-[4-(1-cyclopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 375 mg, 34% | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OC1CN(C1)C1CC1)OC)=O | InChI=1S/C25H24ClN3O3S.ClH/c1-31-22-12-18(8-9-21(22)32-19-13-28(14-19)17-6-7-17)29-11-10-20-23(25(29)30)33-24(27-20)15-2-4-16(26)5-3-15;/h2-5,8-9,12,17,19H,6-7,10-11,13-14H2,1H3;1H
